US08242124B2
Ethyl 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (100 mg, 0.278 mmol) and K2CO3 (77 mg, 0.557 mmol) were dissolved in MeOH (2 mL) and water (2 mL). The mixture was stirred at room temperature overnight, and neutralized with 1N HCl to pH 3. All solvents were removed and the residue was purified by prep. HPLC to give 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (46 mg, 0.139 mmol, 49.9% yield). LCMS: m/z 332.1 (M+H)+, 1.17 min (method 8).

reactant | Ethyl 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.278 mmol, 100 mg | OC(C)C1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)OCC)=O)OC | C16H17N5O5
reactant | K2CO3 | 0.557 mmol, 77 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 0.139 mmol, 46 mg, 49.9% yield | OC(C)C1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)O)=O)OC | C14H13N5O5
